Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Back pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with history of StageIIIa L breast ca, ER positive s/p 
lumpectomy and axillary node sampling ___, completed XRT in 
early ___. Initially on Femara, but changed to Aromasin due 
to rising tumor markers in ___.
.
Recently, the patient has been refusing to see doctors ___ 
anxiety surrounding her diagnosis. The patient has not kept 
follow up appointments for several months. She is unable to 
acknowledge that she has metastatic breast ca, and does not wish 
to talk about it. She has refused further imaging. 
.
Per her daughter, for several months patient has had increasing 
back pain. On ___ patient presented to the ___ ED and w 1d 
extreme low back pain.  She had a CT scan that showed extensive 
lytic process of the sacrum, iliac bones, and lower spine with 
cortical breakthrough. There was attenuation of a soft tissue 
mass extending slightly through the cortical defects. Findings 
were highly concerning for metastatic disease. She was 
discharged w Tylenol 3 qHS. 
.
The results were discussed with her daughter ___, but results 
were not discussed with the patient, at the family's request. 
She had an appointment to follow up with her oncologist but did 
not keep that appointment. 
.
She is now being admitted from home for expidited work up of 
lower back mass including pain control, biopsy, and radiation 
oncology consult. 
.
Review of Systems:  
(+) Per HPI  
(-) Review of Systems: GEN: No fever, chills, night sweats, 
recent weight loss or gain. HEENT: No headache, sinus 
tenderness, rhinorrhea or congestion. CV: No chest pain or 
tightness, palpitations. PULM: No cough, shortness of breath, or 
wheezing. GI: No nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel habits, no 
hematochezia or melena. GUI: No dysuria or change in bladder 
habits. MSK:  No arthritis, arthralgias, or myalgias. DERM: No 
rashes or skin breakdown. NEURO: No numbness/tingling in 
extremities. PSYCH: No feelings of depression or anxiety. All 
other review of systems negative.
 
Past Medical History:
Past Oncologic History:
___: Patient palpated lump in upper outer quadrant of her L 
breast while showering. Mammogram confirmed a palpable mass in 
the L breast -showed large, irregular, spiculated mass 
containing microcalcifications approximately 2-3cm. In addition, 
there was a dense enlarged lymph node in the L axilla.  No 
abnormalities in the R breast. US of the L breast revealed a 
large irregular shadowing mass at approximately 1 o'clock 
position measuring 2.5 x1.5x1.7cm. Exam of the L axilla revealed 
an iniltrative type of lymph node measuring 1.4 x 0.9 x 1.5cm. 
She underwent a core biopsy of the L breast mass and an FNA of 
the L axillary lymph node. Pathology showed an invasive ductal 
carcinoma, involving all 4 cores, at least 1cm. Tumor was 
moderately differentiated (grade II/III); no DCIS component, no 
LVI. Tumor was ER/PR strongly positive and her-2-neu negative 
(1+ IHC). FNA of the lymph node was suspicious for malignancy. 
Underwent lumpectomy with axillary sampling on ___ by Dr. 
___. Final pathology showed an invasive ductal carcinoma, 
2.6cm, well differentiated, grade I. EIC positive. LV1 present. 
Close margin anterior focally. There is DCIS present. Solid 
cribiform papillary and micropapillary of intermediate grade 
with central necrosis was noted. This was in 5 of 9 blocks. 
There was a close medial margin. Of 9 axillary nodes sampled, 
six were positive for metastatic disease. The largest focus was 
0.9cm, some positive lymph nodes are matted. Extranodal 
extension was present. AJCC classification, T2P N2A M0. ER/PR 
positive, Her-2/neu weakly positive. Completed XRT ___ with ___ 
___ at ___. Received total of ___ planned treatments, last 
one not given due to pt developing afib requiring overnight 
hospitalization. Began Femara ___. 
___ -Pt lost to f/u for over one year. Returned in ___ with 
rising Ca ___.  CT scans did not show evidence of metastatic 
disease. Pt refused bone scan. 
___ -Treatment changed to Aromasin
___ -rising Ca ___ -CT scans without clear evidence of metastic disease. Pt 
refused bone scan. Refused PET scan. 
.
Other Past Medical History:  
HTN
HL

 
Family History:
NC
 
Physical Exam:
ADMISSION
VS: 97.3 128/70 72 18 98%RA
GEN: mildly anxious, NAD, comfortable
HEENT:  PERRL, MMM, OP clear, 
NECK: 4cm JVD, neck supple, no cervical, supraclavicular, or 
axillary LAD
CV: RRR S1/S2 normal. no murmurs/gallops/rubs.
PULM: No dullness to percussion, CTAB no crackles or wheezes
BACK: Midline tenderness at lumbosacral area
ABD: BS+, soft, NT, no rebound/guarding
EXT: WWP, ___ pulses, no c/c/e
Skin: no rashes or bruising
Neuro: CNs II-XII intact. ___ strength in U/L extremities. gait 
not observed.  

DISCHARGE
Physical Exam:  
VS: 96.9 120/50 83 20 96%RA
GEN: Mildly anxious, NAD, comfortable
HEENT:  PERRL, MMM, OP clear
NECK: 4cm JVD, neck supple, no cervical, supraclavicular, or 
axillary LAD
CV: RRR S1/S2 normal, no murmurs/gallops/rubs
PULM: No dullness to percussion, CTAB no crackles or wheezes
BACK: Midline tenderness at lumbosacral area, unchanged from 
prior, biopsy site c/d/i
ABD: BS+, soft, NT, no rebound/guarding
EXT: WWP, ___ pulses, no c/c/e
Skin: no rashes or bruising
Neuro: CNs II-XII intact. ___ strength in U/L extremities. gait 
not observed this AM.

 
Pertinent Results:
___ 11:35AM BLOOD WBC-5.3 RBC-3.44* Hgb-10.4* Hct-30.5* 
MCV-89 MCH-30.1 MCHC-33.9 RDW-13.1 Plt ___
___ 06:40AM BLOOD WBC-6.4 RBC-4.00* Hgb-11.9* Hct-36.5 
MCV-91 MCH-29.7 MCHC-32.5 RDW-13.3 Plt ___
___ 06:40AM BLOOD ___ PTT-25.3 ___
___ 11:35AM BLOOD Glucose-87 UreaN-21* Creat-0.9 Na-138 
K-4.3 Cl-104 HCO3-26 AnGap-12
___ 06:40AM BLOOD Glucose-99 UreaN-30* Creat-0.9 Na-139 
K-4.1 Cl-104 HCO3-25 AnGap-14
___ 11:35AM BLOOD ALT-13 AST-26 LD(LDH)-178 AlkPhos-206* 
TotBili-0.4
___ 05:50AM BLOOD ___

___
CT Chest
1. Widespread skeletal metastases. 
2. Post-radiation changes in the left lung consistent with 
treatment for left breast cancer. 
3. Nonspecific, basilar-predominant, ground-glass and reticular 
opacities, 
which could potentially be due to drug toxicity if the patient 
has received pulmonary toxic agents. Differential diagnosis 
includes nonspecific interstitial pneumonia (NSIP). 
4. Indeterminate left thyroid nodule, for which ultrasound could 
be performed if warranted clinically. 

___
MR ___
1. Extensive osseous metastatic disease without epidural or 
intradural 
metastatic lesions. No significant spinal canal narrowing or 
neural foraminal narrowing due to metastatic lesions is 
identified. The vertebral body heights are overall maintained 
2. There is narrowing of the lower sacral canal due to the above 
mentioned 
metestatic disease. The left S1 and S2 nerve roots are displaced 
and likely compressed by this mass effect. 
3. Mild-to-moderate lumbar spondylosis without significant 
spinal canal or 
neural foraminal narrowing as described above. 
4. A left renal cyst is identified measuring 1.5 cm in greatest 
dimension.  There is likely a large exophytic right renal cyst 
which is only partially imaged. These were present on the prior 
CT examination performed, ___. 

 
Brief Hospital Course:
HOSPITAL COURSE
This is an ___ F StageIIIa L breast ca, with a disease course 
c/b extreme anxiety relating to her diagnosis with avoidance of 
medical care who presented with back pain, a recent diagnosis of 
extensive lytic masses of spine, now status post CT guided 
biopsy, establishment with radiation oncology, ready for 
discharge home. 
.
ACTIVE
# Breast Ca: This is a patient with a history of ER+ breast 
cancer (Stage IIIa at diagnosis) s/p XRT and hormone therapy, 
care complicated by anxiety regarding diagnosis, who presented w 
a lytic lesion of sacrum.  She underwent biopsy to determine 
that receptor status of the metastasis to determine the best 
course for palliative therapy.  She established with Dr. ___ 
___ ___ radiation oncology, and was given a follow-up 
appointment at time of discharge.
.
INACTIVE
# Pain Control: Continued tylenol w codeine. 
.
# HTN: Continued HCTZ 50mg po daily, Amlodipine 5mg po daily, 
Irbesartan 300mg po daily.
.
# CAD: Continued Pravastatin.
.
TRANSITIONAL
1. Code status: Patient remained full code during her admission
2. Pending labs: At time of discharge pathology of ___iopsy remained pending.  
3. Transition of Care: Patient was scheduled for follow-up with 
primary oncologist Dr. ___ Dr. ___ ___ radiation 
oncology.
4. Barriers to Care: ___ hospital course was complicated 
by anxiety regarding diagnosis, did not wish to discuss 
"cancer", preferred it to be called "her disease".  Patient 
attributed her back pain to "strained muscles".  Believe that 
future management of her metastatic disease should be 
accompanied by social/psychological support.  
 
Medications on Admission:
HCTZ 50mg po daily 
Pravastatin 80mg po qhs
Amlodipine 5mg po daily
Irbesartan 300mg po daily
Vitamin B12 1000mcg/mL injection
 
Discharge Medications:
1. hydrochlorothiazide 50 mg Tablet Sig: One (1) Tablet PO once 
a day.  
2. pravastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. irbesartan 300 mg Tablet Sig: One (1) Tablet PO once a day.  
5. acetaminophen-codeine 300-30 mg Tablet Sig: One (1) Tablet PO 
Q4H (every 4 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Metastatic Breast Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted for evaluation of your back 
pain.  You underwent imaging and a biopsy of your back.  You are 
now ready for discharge.

**It will be VERY important for you to follow up with your 
oncologist and your radiation oncologist**

During your hospital stay, no changes were made to your 
medications.
 
Followup Instructions:
___